US07834019B2
1) Production of 5-iodo-4-(1-methylhydrazino)-2-(methylthio)pyrimidine
603 mg of potassium carbonate was added to ethanol (15 mL) solution of 1.25 g of 4-chloro-5-iodo-2-(methylthio)pyrimidine, and with cooling with ice, 0.28 mL of methylhydrazine was dropwise added thereto. This was stirred overnight at room temperature, then water was added thereto, and the precipitated crystal was taken out through filtration and dried to obtain 851 mg of the entitled compound as a white solid.

reactant | potassium carbonate | 603 mg | C([O-])([O-])=O.[K+].[K+]
reactant | ethanol | 15 mL | C(C)O | C2H6O
reactant | 4-chloro-5-iodo-2-(methylthio)pyrimidine | 1.25 g | ClC1=NC(=NC=C1I)SC | C5H4ClIN2S
reactant | methylhydrazine | 0.28 mL | CNN | CH6N2
solvent | water | O | H2O
product | 5-iodo-4-(1-methylhydrazino)-2-(methylthio)pyrimidine | 851 mg | IC=1C(=NC(=NC1)SC)N(N)C | C6H9IN4S
